US09399640B2
Step 2. 1-Bromo-2-fluoro-4-methoxy-3-nitrobenzene
Bromine (1.55 mL, 30.1 mmol) was added dropwise to a solution of 1-fluoro-3-methoxy-2-nitrobenzene (1.29 g, 7.53 mmol) in acetic acid (15.1 mL). The reaction mixture was warmed to 55° C. and stirred at 55° C. for 17 h, after which time the reaction mixture was concentrated in vacuo to give a crude solid. The crude solid was diluted with saturated sodium bicarbonate solution and extracted with ethyl acetate. Layers were separated and the organic layer was washed with saturated sodium bicarbonate solution, dried with sodium sulfate, filtered, and concentrated in vacuo to give the desired product (1.87 g, 99%) as a yellow solid that was used in further step without purification.

reactant | Bromine | 30.1 mmol, 1.55 mL | BrBr | Br2
reactant | 1-fluoro-3-methoxy-2-nitrobenzene | 7.53 mmol, 1.29 g | FC1=C(C(=CC=C1)OC)[N+](=O)[O-] | C7H6FNO3
solvent | acetic acid | 15.1 mL | C(C)(=O)O | C2H4O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-Bromo-2-fluoro-4-methoxy-3-nitrobenzene | 1.87 g, 99% | BrC1=C(C(=C(C=C1)OC)[N+](=O)[O-])F | C7H5BrFNO3
